US07041685B2
2-(6-Chloro-pyridin-3-yl)-5-(3-chloro-thiophen-2-yl)-oxazole
6-Chloro-N-[2-(3-chloro-thiphen-2-yl)-2-oxo-ethyl]-nicotinamide: The title compound was prepared from 2-(3-chloro-thiophen-2-yl)-2-oxo-1-ethylamine hydrochloride and 6-chloronicotinoyl chloride by a procedure similar to Example 98a as a white solid (0.044 g, 30%). 1H NMR (CD3OD): 8.74 (d, J=8.74 Hz, 1H), 8.13 (d, J=6.3 Hz, 1H), 7.79 (d, J=5.4 Hz, 1H), 7.48 (d, J=9.0 Hz, 1H), 7.07 (d, J=5.4 Hz, 1H), 4.75 (s, 2H).

reactant | 6-Chloro-N-[2-(3-chloro-thiphen-2-yl)-2-oxo-ethyl]-nicotinamide | ClC1=NC=C(C(=O)NCC(=O)C=2SC=CC2Cl)C=C1 | C12H8Cl2N2O2S
reactant | 2-(3-chloro-thiophen-2-yl)-2-oxo-1-ethylamine hydrochloride | Cl.ClC1=C(SC=C1)C(CN)=O
reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
product | 2-(6-Chloro-pyridin-3-yl)-5-(3-chloro-thiophen-2-yl)-oxazole | ClC1=CC=C(C=N1)C=1OC(=CN1)C=1SC=CC1Cl | C12H6Cl2N2OS
